US05686445
N-[4-[(Dibenz[b,f][1,4]thiazepin-10(11H)yl)carbonyl]phenyl]-2-methylbenzamide
As described for in Reference Example 12, a mixture of 3.3 g of 10,11-dihydro-11-oxodibenz[b,f][1,4]thiazepine, 25 ml of tetrahydrofuran, 4.0 ml of 10 molar borane-dimethylsulfide (2.67 equivalents) in tetrahydrofuran is stirred at room temperature 18 hours to give, after work-up, 10,11-dihydrodibenz[b,f][1,4]thiazepine as white crystals, m.p. 145°-148° C. The preceding compound (3.5 g) is suspended in 25 ml of dichloromethane and a solution of 1.8 g of 4-[(2-methylbenzoyl)amino]benzoyl chloride in 50 ml of dichloromethane added. To the stirred mixture is added 4 ml of triethylamine and 0.2 g of 4-(dimethylamino) pyridine. The mixture is stirred at room temperature for 20 hours. The mixture is filtered and the filtrate concentrated. The residue is purified by chromatography on silica gel with hexane-chloroform-ethyl acetate (2:1:1) as solvent to give 2.2 g of yellow crystals. A sample (0.80 g) is further purified by thick layer chromatography on silica gel with hexane-chloroform-ethyl acetate (2:1:1) as solvent to give 0.50 g of crystals, 76°-78° C.

reactant | 10,11-dihydro-11-oxodibenz[b,f][1,4]thiazepine | 3.3 g | O=C1NC2=C(SC3=C1C=CC=C3)C=CC=C2 | C13H9NOS
reactant | borane dimethylsulfide | 10 molar, 4.0 ml, 2.67 equivalents | B.CSC
reactant | 10,11-dihydrodibenz[b,f][1,4]thiazepine | C1=CC=CC2=C1CNC1=C(S2)C=CC=C1 | C13H11NS
reactant | 4-[(2-methylbenzoyl)amino]benzoyl chloride | 1.8 g | CC1=C(C(=O)NC2=CC=C(C(=O)Cl)C=C2)C=CC=C1 | C15H12ClNO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino) pyridine | 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
product | N-[4-[(Dibenz[b,f][1,4]thiazepin-10(11H)yl)carbonyl]phenyl]-2-methylbenzamide | 2.2 g | C1=CC=CC2=C1CN(C1=C(S2)C=CC=C1)C(=O)C1=CC=C(C=C1)NC(C1=C(C=CC=C1)C)=O | C28H22N2O2S
